US09029189B2
Step 2.2. 2,6-Dimethyl-2,3,5,6-tetrahydro-1H-imidazo[1,2-a]imidazole (VI)
In a 100 mL flask, 0.4078 g of di-(2-aminopropyl)amine (0.00311 mol) was dissolved in 50 mL of 1-methylnaphthalene. Carbon disulfide (0.18 mL, 0.00298 mol) was added. The reaction was stirred for three hours then heated to 200° C. The reaction was heated for four days until production of hydrogen sulfide stopped. The solvent was then removed by distillation. The product was then dissolved in approximately 5 mL of hexanes and 0.5 mL of a 2.0 M ether solution of hydrogen chloride was added. The yield of the precipitate was 0.278 g (53%). The NMR had a doublet at 1.19 ppm, a multiplet at 3.44 ppm, a multiplet at 3.92 ppm and a multiplet at 4.15 ppm.

reactant | di-(2-aminopropyl)amine | 0.00311 mol, 0.4078 g | NC(CNCC(C)N)C | C6H17N3
reactant | Carbon disulfide | 0.00298 mol, 0.18 mL | C(=S)=S | CS2
reactant | hydrogen sulfide | S | H2S
solvent | 1-methylnaphthalene | 50 mL | CC1=CC=CC2=CC=CC=C12 | C11H10
product | 2,6-Dimethyl-2,3,5,6-tetrahydro-1H-imidazo[1,2-a]imidazole | CC1NC=2N(C1)CC(N2)C | C7H13N3
